US06248740B1
Production of isopropyl [6-[3-[4-(diphenylmethoxy) piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate
653 mg of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 10 ml of N,N-dimethylformamide; 88 mg of a 60% dispersion of sodium hydride in mineral oil was added, followed by stirring at room temperature under reduced pressure for 1.5 hours. To the reaction mixture, 483 mg of isopropyl (6-chloro[1,2,4]triazolo[1,5-b]pyridazin-2-yl)carboxylate was added under ice cooling conditions, followed by stirring at constant temperature for 3.5 hours. Ice water was added, followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol (10:1). The desired fraction was collected and concentrated; the crystal precipitated was washed with ethyl ether, collected by filtration and dried to yield 462 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 653 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl (6-chloro[1,2,4]triazolo[1,5-b]pyridazin-2-yl)carboxylate | 483 mg | ClC=1C=CC=2N(N1)N=C(N2)C(=O)OC(C)C | C9H9ClN4O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | isopropyl [6-[3-[4-(diphenylmethoxy) piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate | 462 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)N=C(N2)C(=O)OC(C)C)C2=CC=CC=C2 | C30H35N5O4
